US20010025047A1
4-[Benzyl-(4-methoxy-benzenesulfonyl)-amino]-7-trifluoromethyl-quinoline-3-carboxylic Acid Ethyl Ester
To a solution of 1.85 g (6.67 mmol) of N-benzyl 4-methoxyphenylsulphonamide in 15 mL of DMF was added, in one portion, 0.267 g (6.67 mmol) of 60% sodium hydride and the resulting mixture was stirred at room temperature under nitrogen for 15 min. Ethyl 4-chloro-7-trifluoromethyl-3-quinolinecarboxylate (2.02 g, 6.67 mmol) was then added to the solution in one portion and the resulting mixture was heated at 85° C. for 24 h. The reaction mixture was then cooled to room temperature, poured into a mixture of water (300 mL) and HCl (1N, aqueous, 100 mL) and extracted with ethyl acetate (2×10 mL). The combined organic layers were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was then chromatographed on silica gel eluting with 15%-50% ethyl acetate/hexane to give 3.1 μg (88%) of the desired product. Electrospray Mass Spec 545.1 (M+H).

reactant | N-benzyl 4-methoxyphenylsulphonamide | 6.67 mmol, 1.85 g | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C14H15NO3S
reactant | sodium hydride | 6.67 mmol, 0.267 g | [H-].[Na+]
reactant | Ethyl 4-chloro-7-trifluoromethyl-3-quinolinecarboxylate | 6.67 mmol, 2.02 g | ClC1=C(C=NC2=CC(=CC=C12)C(F)(F)F)C(=O)OCC | C13H9ClF3NO2
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | 4-[Benzyl-(4-methoxy-benzenesulfonyl)-amino]-7-trifluoromethyl-quinoline-3-carboxylic Acid Ethyl Ester | 3.1 μg, 88% | C(C)OC(=O)C=1C=NC2=CC(=CC=C2C1N(S(=O)(=O)C1=CC=C(C=C1)OC)CC1=CC=CC=C1)C(F)(F)F | C27H23F3N2O5S
